US07101898B2
A solution of (E)-3-(4-(methylsulfonyl)phenyl)acrylic acid ethyl ester and lithium hydroxide in dioxane/water (100 ml/100 ml) was stirred for 16 h at room temp. It was washed with tert.-butyl methyl ether (200 ml). The aqueous phase was acidified with a 10% aqueous solution of sodium hydrogensulfate until pH 2. The precipitation was isolated by filtration and dried in vacuo. The residue was suspended in ethanol (100 ml). The solvent was removed. The latter procedure was repeated once to give 2.74 g of crude (E)-4-methylsulfonylcinnamic acid which was used in the next step without further purification.

reactant | (E)-3-(4-(methylsulfonyl)phenyl)acrylic acid ethyl ester | C(C)OC(\C=C\C1=CC=C(C=C1)S(=O)(=O)C)=O | C12H14O4S
reactant | lithium hydroxide | [OH-].[Li+]
solvent | dioxane water | 100 ml | O1CCOCC1.O
product | (E)-4-methylsulfonylcinnamic acid | 2.74 g | CS(=O)(=O)C1=CC=C(/C=C/C(=O)O)C=C1 | C10H10O4S
